US09079866B2
5-{2′-[(6-Cyclopropylpyrimidin-4-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 4-(2-bromophenoxy)-6-cyclopropylpyrimidine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C23H18FN5O, 399.15; m/z found, 399.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.45 (s, 1H), 8.42 (s, 2H), 7.56-7.50 (m, 2H), 7.48-7.43 (m, 1H), 7.41-7.36 (m, 1H), 7.33-7.23 (m, 3H), 6.99 (s, 1H), 6.86 (s, 2H), 2.09-2.01 (m, 1H), 1.02-0.92 (m, 4H).

reactant | 4-(2-bromophenoxy)-6-cyclopropylpyrimidine | BrC1=C(OC2=NC=NC(=C2)C2CC2)C=CC=C1 | C13H11BrN2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{2′-[(6-Cyclopropylpyrimidin-4-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine | C1(CC1)C1=CC(=NC=N1)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C23H18FN5O
